US09290485B2
f.2) 1-Benzyl-1H-pyrazole-4-carboxylic acid
Ethyl 1-benzyl-1H-pyrazole-4-carboxylate (1.05 g, 3.56 mmol) was dissolved in MeOH (20 ml). Water (10 ml) and LiOH.H2O (0.299 g, 7.11 mmol) were added and the suspension was stirred for 3 h at rt. The reaction mixture was evaporated in vacuum to remove the MeOH. The water phase was washed with AcOEt, then treated with 1N HCl until pH3, and extracted with AcOEt. The organic phase was dried over MgSO4 and evaporated in vacuum to give the title compound which was used in the next step without any further purification. HPLC/MS (Method A) RtA=1.3 min, MS [M+H]+=203.1.

reactant | Ethyl 1-benzyl-1H-pyrazole-4-carboxylate | 3.56 mmol, 1.05 g | C(C1=CC=CC=C1)N1N=CC(=C1)C(=O)OCC | C13H14N2O2
reactant | Water | 10 ml | O | H2O
reactant | LiOH.H2O | 7.11 mmol, 0.299 g | O[Li].O
solvent | MeOH | 20 ml | CO | CH4O
product | 1-Benzyl-1H-pyrazole-4-carboxylic acid | C(C1=CC=CC=C1)N1N=CC(=C1)C(=O)O | C11H10N2O2
